US06369002B1
Preparation of 1-(6-Ethoxicarbonyl-5-chloro-3-fluoropyridin-2-yl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione
A mixture of 4 g 1-(3-fluoro-5,6-dichloro-2-pyridyl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione (Example H4), 3.4 g triethylamine and 2 g dichloro-bis(triphenylphosphine)palladium in 50 ml ethanol is pressurized in an autoclave with carbon monoxide at 180 bar and the mixture heated for about 30 hours to 101° C., leading to a pressure build-up of max. 228 bar. The heating is then switched off, the reaction mixture left to stand at 22° C. over the weekend and filtered; the filtrate is then concentrated by evaporation in a vacuum, and the residue obtained is purified over a silica gel column (eluent: n-hexane/ethyl acetate 9/1). The desired title compound is obtained as a yellowish resin.

reactant | 1-(3-fluoro-5,6-dichloro-2-pyridyl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione | 4 g | FC=1C(=NC(=C(C1)Cl)Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C11H5Cl2F4N3O2
reactant | triethylamine | 3.4 g | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(6-Ethoxicarbonyl-5-chloro-3-fluoropyridin-2-yl)-3-methyl-4-trifluoromethylpyrimidin-2,6-dione | C(C)OC(=O)C1=C(C=C(C(=N1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C14H10ClF4N3O4
